US07056932B2
(RS)-N-(4-Cyano-2-hydroxy-benzyl)-2-ethoxy-2-(4-methyl-1-oxo-1,3-dihydro-isoindol-2-yl)-acetamide (300 mg) was dissolved in acetonitrile (10 ml) and treated over night under vigorous stirring at ambient temperature with iodoacetamide (223 mg) and cesium carbonate (411 mg). Pouring onto crushed ice/NH4Cl, twofold extraction with AcOEt, washing with brine, drying over sodium sulfate, and evaporation of the solvents, followed by flash column chromatography (silica gel, AcOEt/MeOH=10/1), afforded 75 mg of (RS)-N-(2-carbamoylmethoxy-4-cyano-benzyl)-2-ethoxy-2-(4-methyl-1-oxo-1,3-dihydro-isoindol-2-yl)-acetamide as white solid, MS 437.4 ([M+H]+).

reactant | (RS)-N-(4-Cyano-2-hydroxy-benzyl)-2-ethoxy-2-(4-methyl-1-oxo-1,3-dihydro-isoindol-2-yl)-acetamide | 300 mg | C(#N)C1=CC(=C(CNC(C(N2C(C3=CC=CC(=C3C2)C)=O)OCC)=O)C=C1)O | C21H21N3O4
reactant | iodoacetamide | 223 mg | ICC(=O)N | C2H4INO
reactant | cesium carbonate | 411 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | (RS)-N-(2-carbamoylmethoxy-4-cyano-benzyl)-2-ethoxy-2-(4-methyl-1-oxo-1,3-dihydro-isoindol-2-yl)-acetamide | 75 mg | C(N)(=O)COC1=C(CNC(C(N2C(C3=CC=CC(=C3C2)C)=O)OCC)=O)C=CC(=C1)C#N | C23H24N4O5
